US04416985
A solution of 195 g of 3β,7β-dihydroxy-15β,16β-methylene-5-androsten-17-one in 1,460 ml of pyridine is combined with 293 ml of pivalic anhydride and 31 g of dimethylaminopyridine. After a reaction period of 72 hours at room temperature, the crude product is precipitated with 15 l of ice water, vacuum-filtered, washed, and dried at 60° C. Recrystallization from acetone-dichloromethane yields 185.4 g of 7β-hydroxy-15β,16β-methylene-3β-pivaloyloxy-5-androsten-17-one, mp 236° C. [α]D =-45° (chloroform).

reactant | 3β,7β-dihydroxy-15β,16β-methylene-5-androsten-17-one | 195 g | O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5)O | C20H28O3
reactant | pivalic anhydride | 293 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | dimethylaminopyridine | 31 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 1,460 ml | N1=CC=CC=C1 | C5H5N
product | 7β-hydroxy-15β,16β-methylene-3β-pivaloyloxy-5-androsten-17-one | 185.4 g | O[C@@H]1[C@H]2[C@@H]3[C@H]4[C@@H](C([C@@]3(C)CC[C@@H]2[C@]2(CC[C@@H](CC2=C1)OC(C(C)(C)C)=O)C)=O)C4 | C25H36O4
